US08710245B2
(a) Synthesis of (4-chlorophenyl)(2,2-dimethoxyethyl)sulfane
To a solution of 4-chlorobenzenethiol (13 mmol) and Et3N (1.4 g, 13 mmol) in THF (25 mL) at room temperature was added 2-bromo-1,1-dimethoxyethane (2.36 g, 13 mmol) in THF (5 mL). After stirring at room temperature for 30 minutes, the reaction mixture was poured into water (200 mL) and extracted with diethyl ether (3×150 mL). The combined organic layer was dried over Na2SO4. After filtration and concentration, the crude product was purified by column chromatography to give the title compound.

reactant | 4-chlorobenzenethiol | 13 mmol | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | Et3N | 13 mmol, 1.4 g | CCN(CC)CC | C6H15N
reactant | 2-bromo-1,1-dimethoxyethane | 13 mmol, 2.36 g | BrCC(OC)OC | C4H9BrO2
reactant | water | 200 mL | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (4-chlorophenyl)(2,2-dimethoxyethyl)sulfane | ClC1=CC=C(C=C1)SCC(OC)OC | C10H13ClO2S
